US07262212B2
To a solution of 2-chloro-4-nitro-1H-imidazole (1.59 g, 10.8 mmol) and 1-(2-methyloxiran-2-ylmethyl)-4-(4-trifluoromethylphenyl)piperazine (3.23 g, 10.8 mmol) in 1-propanol (20 ml), sodium hydrogencarbonate (1.95 g, 23.8 mmol) was added followed by stirring under reflux overnight. The reaction mixture was concentrated under reduced pressure. The residue was added water, and the solution was extracted with methylene chloride. The organic phase was dried over sodium sulfate and then filtered. The filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (methylene chloride/methanol=100/1) and crystallized from methylene chloride-isopropyl ether to afford 2-[4-(4-trifluoromethylphenyl)piperazin-1-yl]methyl-2-methyl-6-nitro-2,3-dihydroimidazo[2,1-b]oxazole (1.34 g, yield 29%) as a a light yellow powder.

reactant | 2-chloro-4-nitro-1H-imidazole | 10.8 mmol, 1.59 g | ClC=1NC=C(N1)[N+](=O)[O-] | C3H2ClN3O2
reactant | 1-(2-methyloxiran-2-ylmethyl)-4-(4-trifluoromethylphenyl)piperazine | 10.8 mmol, 3.23 g | CC1(OC1)CN1CCN(CC1)C1=CC=C(C=C1)C(F)(F)F | C15H19F3N2O
reactant | sodium hydrogencarbonate | 23.8 mmol, 1.95 g | C(O)([O-])=O.[Na+]
solvent | 1-propanol | 20 ml | C(CC)O | C3H8O
product | 2-[4-(4-trifluoromethylphenyl)piperazin-1-yl]methyl-2-methyl-6-nitro-2,3-dihydroimidazo[2,1-b]oxazole | 1.34 g, yield 29% | FC(C1=CC=C(C=C1)N1CCN(CC1)CC1(CN2C(O1)=NC(=C2)[N+](=O)[O-])C)(F)F | C18H20F3N5O3
